US05670503
To a mixture of 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (89 mg) and sodium cyanoborohydride (63 mg) in methanol (1 ml) was added acetone (0.1 ml) with ice cooling. The pH of the mixture was adjusted to 3 to 4 with 1N hydrochloric acid and the solution was stirred at 4° C. for 30 minutes. Then, the solution was neutralized with an aqueous saturated sodium bicarbonate solution and poured into cold water. The separated oil was extracted with ethyl acetate and the extract was washed with brine, dried and concentrated in vacuo. The residue was crystallized from diethyl ether to give 7-(4-fluorophenyl)-2-isopropyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (75 mg).

reactant | 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 89 mg | FC1=CC=C(C=C1)C1=NN2C(NNCC2)=C1C1=CC=NC=C1 | C16H14FN5
reactant | sodium cyanoborohydride | 63 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetone | 0.1 ml | CC(=O)C | C3H6O
solvent | methanol | 1 ml | CO | CH4O
solvent | water | O | H2O
product | 7-(4-fluorophenyl)-2-isopropyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 75 mg | FC1=CC=C(C=C1)C1=NN2C(NN(CC2)C(C)C)=C1C1=CC=NC=C1 | C19H20FN5
